US04400202
N-m-NITROPHENYL-2,2-DIMETHYLSUCCINIMIDE (INTERMEDIATE)
Sixty-nine grams (0.5 mole) of m-nitroaniline and 76 grams (g.) (0.52 mole) of 2,2-dimethylsuccinic acid were mixed with 200 milliliters (ml.) of xylene and heated to reflux until approximately 20 ml. of water was removed in a modified Dean Stark apparatus. On cooling, the product crystallized from solution. The mixture was diluted with 300 ml. of ether, the solid filtered off, washed with an additional 100 ml. of ether and dried. Yield was 117.5 g. of a product having a melting point (m.p.) of 134°-134.5° C. The product was identified as the title compound by analysis of infrared spectra.

reactant | m-nitroaniline | 0.5 mole, Sixty-nine grams | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 2,2-dimethylsuccinic acid | 0.52 mole, 76 grams | CC(C(=O)O)(CC(=O)O)C | C6H10O4
solvent | xylene | 200 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | N-m-NITROPHENYL-2,2-DIMETHYLSUCCINIMIDE | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H12N2O4
